US05338856
Preparation of 4,5-Dihydro-4-(3-methyl-5-isoxazolyl)-3-phenyl-N-(4-trifluoromethoxyphenyl)-1H-pyrazole-1-carboxamide (Compound I-E)
A mixture of 20 mL of dichloromethane, 2.01 g (10 mmol) of 2-(3-methyl-5-isoxazolyl)-1-phenylethanone and 1.12 g (11 mmol) of N,N,N',N'-tetramethyldiaminomethane was prepared and cooled to -15° C. and 1.25 g (11 mmol) of trifluoroacetic acid in 5 mL of dichloromethane was added with cooling and stirring. Stirring was continued for 5 min at about 0° C. and then the mixture was allowed to warm to ambient temperature and stir for another 1.75 hr. A proton NMR spectrum of the mixture was taken which indicated complete disappearance of the starting material. Anhydrous hydrazine (0.96 g, 30 mmol) was added and the mixture was allowed to react with stirring for 2 hr. A proton NMR spectrum of the mixture indicated complete conversion to 4,5-dihydro-4-(3-methyl-5-isoxazolyl)-3-phenyl-1H-pyrazole. The mixture was washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, and filtered. 4-(Trifluoromethoxy)phenyl isocyanate (2.19 g, 10.8 mmol) was then added with stirring. The mixture was allowed to react for 1 hr and then 1 mL of acetic acid was added and the mixture was allowed to react for 5 min. It was then washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated by evaporation under reduced pressure. The resulting solid was extracted with boiling ether and air dried to obtain 3.1 g (72 percent of theory) of the title compound as a white solid melting at 195°-197° C.

reactant | 2-(3-methyl-5-isoxazolyl)-1-phenylethanone | 10 mmol, 2.01 g | CC1=NOC(=C1)CC(=O)C1=CC=CC=C1 | C12H11NO2
reactant | N,N,N',N'-tetramethyldiaminomethane | 11 mmol, 1.12 g | CN(C)CN(C)C | C5H14N2
reactant | trifluoroacetic acid | 11 mmol, 1.25 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrazine | 30 mmol, 0.96 g | NN | H4N2
reactant | 4,5-dihydro-4-(3-methyl-5-isoxazolyl)-3-phenyl-1H-pyrazole | CC1=NOC(=C1)C1C(=NNC1)C1=CC=CC=C1 | C13H13N3O
reactant | 4-(Trifluoromethoxy)phenyl isocyanate | 10.8 mmol, 2.19 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-4-(3-methyl-5-isoxazolyl)-3-phenyl-N-(4-trifluoromethoxyphenyl)-1H-pyrazole-1-carboxamide | CC1=NOC(=C1)C1C(=NN(C1)C(=O)NC1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1 | C21H17F3N4O3
